US05356559
A mixture of 1.4 g of (S)-1-(ethoxycarbonyl)ethyl 6-chloronicotinate, 0.2 g of piperazine and 25 ml of ethanol was heated at 80° C. for 2 days. The reaction mixture was treated with 500 ml of water and then extracted three times with 100 ml of diethyl ether each time. The combined organic phases were washed twice with 500 ml of concentrated sodium chloride solution each time, dried over magnesium sulphate, filtered and subsequently concentrated. The residue was chromatographed on silica gel with toluene/ethyl acetate (vol. 4:1). Recrystallization from ethanol gave pure bis-[(S)-1-(ethoxycarbonyl)ethyl] 6,6'-(1,4-piperazinediyl)dinicotinate with m.p. (C-I) 143° C., [α]20 589 =+68.3 °.

reactant | (S)-1-(ethoxycarbonyl)ethyl 6-chloronicotinate | 1.4 g | ClC1=NC=C(C(=O)O[C@@H](C)C(=O)OCC)C=C1 | C11H12ClNO4
reactant | piperazine | 0.2 g | N1CCNCC1 | C4H10N2
reactant | ethanol | 25 ml | C(C)O | C2H6O
solvent | water | 500 ml | O | H2O
product | bis-[(S)-1-(ethoxycarbonyl)ethyl] 6,6'-(1,4-piperazinediyl)dinicotinate | N1(CCN(CC1)C1=NC=C(C(=O)O[C@@H](C)C(=O)OCC)C=C1)C1=NC=C(C(=O)O[C@@H](C)C(=O)OCC)C=C1 | C26H32N4O8
